### PR TITLE
feat(Loopy): outcome of games

### PR DESCRIPTION
**Pull request by alreadydone**
under the normal play convention

### CODE REVIEW

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 1]
```diff
@@ -0,0 +1,237 @@
...
+    LeftStrategy (⋃ i, s i) :=
+  fun y hy z hz ↦ have ⟨i, hi⟩ := Set.mem_iUnion.mp hy
+    have ⟨r, hrz, hr⟩ := h i y hi z hz
+    ⟨r, hrz, Set.mem_iUnion_of_mem i hr⟩
+
+theorem rightStrategy_iUnion {ι} {s : ι → Set LGame} (h : ∀ i, RightStrategy (s i)) :
+    RightStrategy (⋃ i, s i) :=
+  fun y hy z hz ↦ have ⟨i, hi⟩ := Set.mem_iUnion.mp hy
+    have ⟨r, hrz, hr⟩ := h i y hi z hz
+    ⟨r, hrz, Set.mem_iUnion_of_mem i hr⟩
```
Comment (alreadydone) [inline CombinatorialGames/Game/Loopy/Outcome.lean]: These two are currently unused; I also removed two lemmas that have simple proofs:
```
example {x : LGame} :
    IsLeftSurviving x ↔ ∀ y ∈ x.rightMoves, ∃ r ∈ y.leftMoves, IsLeftSurviving r := by
  rw [isLeftSurviving_iff_forall]
  simp_rw [not_isRightWinning_iff_exists]

example {x : LGame} :
    IsRightSurviving x ↔ ∀ y ∈ x.leftMoves, ∃ r ∈ y.rightMoves, IsRightSurviving r := by
  rw [isRightSurviving_iff_forall]
  simp_rw [not_isLeftWinning_iff_exists]
```

**Comment by vihdzp** [comment]
Can you merge master? #176 seems to have crept into this PR.

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 2]
```diff
@@ -0,0 +1,232 @@
...
+
+We define when a loopy game is a win, a draw, or a loss with each player going first.
+-/
+
+namespace LGame
+
+/-- A surviving strategy for Left, going second.
+
+This is a set of states, such that for every move Right makes, Left can bring it back
+to the set. -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Outcome.lean]: This isn't quite the standard definition of a strategy, so I think we could explain the relation in the docstring. Here's an idea:

```suggestion
to the set.

You can think of this as a nonconstructive version of the more common definition of a strategy, which gives an explicit answer for every reachable state. -/
```

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 3]
```diff
@@ -0,0 +1,232 @@
...
+def IsRightStrategy (s : Set LGame) : Prop :=
+  ∀ y ∈ s, ∀ z ∈ y.leftMoves, ∃ r ∈ z.rightMoves, r ∈ s
+
+@[simp]
+theorem isLeftStrategy_neg {s : Set LGame} : IsLeftStrategy (-s) ↔ IsRightStrategy s := by
+  simp [IsLeftStrategy, IsRightStrategy]
+
+@[simp]
+theorem isRightStrategy_neg {s : Set LGame} : IsRightStrategy (-s) ↔ IsLeftStrategy s := by
+  simp_rw [← isLeftStrategy_neg, neg_neg]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Outcome.lean]: (untested) does this work?
```suggestion
  rw [← isLeftStrategy_neg, neg_neg]
```

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 4]
```diff
@@ -0,0 +1,232 @@
...
+
+theorem isLeftStrategy_iUnion {ι} {s : ι → Set LGame} (h : ∀ i, IsLeftStrategy (s i)) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Outcome.lean]: a) I think this is a good candidate for dot notation.
b) We should have a `sUnion` version as well. Perhaps it might be easier to prove the `iUnion` version as a consequence of the `sUnion` version?
```suggestion
theorem IsLeftStrategy.iUnion {ι} {s : ι → Set LGame} (h : ∀ i, IsLeftStrategy (s i)) :
```

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 5]
```diff
@@ -0,0 +1,232 @@
...
+Copyright (c) 2025 Violeta Hernández Palacios, Aaron Liu, and Junyan Xu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Violeta Hernández Palacios, Aaron Liu, Junyan Xu
+-/
+import CombinatorialGames.Game.Loopy.IGame
+
+/-!
+# Outcomes of loopy games
+
+We define when a loopy game is a win, a draw, or a loss with each player going first.
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Outcome.lean]:
```suggestion
We define when a loopy game is a win, a draw, or a loss with each player going first.

## Todo

Prove that on `IGame`, `IsLeftWin x ↔ 0 < x` and `IsRightLoss x ↔ 0 ≤ x`.
```
You might also want to use these results as justification for why these definitions are for `LGame` rather than `IGame`.

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 6]
```diff
@@ -0,0 +1,232 @@
...
+  /-- `IsRightWin x` means that right wins `x` going first. -/
+  inductive IsRightWin : LGame → Prop where
+    | intro (x y : LGame) : y ∈ x.rightMoves → IsLeftLoss y → IsRightWin x
+  /-- `IsLeftLoss x` means that left loses `x` going first. -/
+  inductive IsLeftLoss : LGame → Prop where
+    | intro (x : LGame) : (∀ y ∈ x.leftMoves, IsRightWin y) → IsLeftLoss x
+end
+
+theorem isLeftWin_iff_exists {x : LGame} : IsLeftWin x ↔ ∃ y ∈ x.leftMoves, IsRightLoss y where
+  mp h := h.rec (motive_2 := fun _ _ ↦ True) (fun _x y hyx hy _ ↦ ⟨y, hyx, hy⟩) fun _ _ _ ↦ ⟨⟩
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Outcome.lean:36]: I have not the slightest idea of what's going on here. (Not that that's bad, I just want an explanation!)

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 7]
```diff
@@ -0,0 +1,232 @@
...
+  exacts [(·.1 w), (·.2 l)]
+
+theorem rightOutcome_eq_draw_iff {x : LGame} : rightOutcome x = .draw ↔ IsRightDraw x := by
+  classical rw [rightOutcome]
+  split_ifs with w l
+  on_goal 3 => simpa using ⟨w, l⟩
+  all_goals rw [false_iff]
+  exacts [(·.1 w), (·.2 l)]
+
+example (x : LGame) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Outcome.lean]: I don't think we need these anymore, `not_isLeftWin_and_isLeftLoss` is a nicer way to state essentially the same.

**Review by vihdzp — COMMENTED** [review]
This is awesome! Just some minor comments.

File: CombinatorialGames/Game/Loopy/Outcome.lean (hunk 6 above)
Comment (alreadydone) [reply CombinatorialGames/Game/Loopy/Outcome.lean:36]: This is basically unfolding the definition, which for an inductive proposition you do by using the recursor in one direction and constructor in another. Maybe it's instructive to look at the proof of `acc_def` [here](https://github.com/leanprover-community/mathlib4/pull/28120#discussion_r2263238508).
For mutual inductives like these there are two motives, which makes the recursor application looking slightly complicated. `not_isRightWin_iff_mem_leftStrategy` is a more nontrivial proof, where one motive is set up so that we obtain essentially the recursor of `IsRightWin` as a standalone (rather than mutual) inductive prop.

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 8]
```diff
@@ -0,0 +1,255 @@
...
+      zero_lf, lf_zero, le_zero, zero_le, leftMoves_toLGame, rightMoves_toLGame]
+    simp_rw [Set.forall_mem_image, Set.exists_mem_image]
+    constructor <;>
+      refine ⟨exists_congr fun y ↦ and_congr_right fun hy ↦ ?_, forall₂_congr fun y hy ↦ ?_⟩
+    exacts [(hl y hy).2.2, (hl y hy).2.1, (hr y hy).1.2, (hr y hy).1.1]
+
+theorem isLeftWin_iff_zero_lf {x : IGame} : IsLeftWin x ↔ 0 ⧏ x := win_loss_iff.1.1
+theorem isLeftLoss_iff_le_zero {x : IGame} : IsLeftLoss x ↔ x ≤ 0 := win_loss_iff.1.2
+theorem isRightWin_iff_lf_zero {x : IGame} : IsRightWin x ↔ x ⧏ 0 := win_loss_iff.2.1
+theorem isRightLoss_iff_zero_le {x : IGame} : IsRightLoss x ↔ 0 ≤ x := win_loss_iff.2.2
```
Comment (alreadydone) [inline CombinatorialGames/Game/Loopy/Outcome.lean:253]: I think by mathlib convention these should be
```suggestion
theorem isLeftLoss_iff_nonpos {x : IGame} : IsLeftLoss x ↔ x ≤ 0 := win_loss_iff.1.2
theorem isRightWin_iff_lf_zero {x : IGame} : IsRightWin x ↔ x ⧏ 0 := win_loss_iff.2.1
theorem isRightLoss_iff_nonneg {x : IGame} : IsRightLoss x ↔ 0 ≤ x := win_loss_iff.2.2
```
but I'm not sure what convention this repo is following. It has both [IGame.sub_nonneg](https://vihdzp.github.io/combinatorial-games/CombinatorialGames/Game/Basic.html#IGame.sub_nonneg) and [IGame.zero_le_intCast](https://vihdzp.github.io/combinatorial-games/CombinatorialGames/Game/Basic.html#IGame.zero_le_intCast), [IGame.zero_le](https://vihdzp.github.io/combinatorial-games/CombinatorialGames/Game/IGame.html#IGame.zero_le), `IGame.zero_le_neg` etc.

Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/Outcome.lean:253]: We generally prefer `zero_le` / `zero_lt` / etc. on `IGame`. It's misleading to use `nonneg` / `pos` / etc. outside of a linear order; for instance, star is neither positive > 0 nor nonpositive ≤ 0.

`IGame.sub_nonneg` was just copying the Mathlib name `sub_nonneg`. I wouldn't mind a PR to rename it.

File: CombinatorialGames/Game/Loopy/IGame.lean [hunk 9]
```diff
@@ -56,6 +56,8 @@ def toLGame : IGame ↪ LGame where
   toFun := toLGame'
   inj' _ _ := toLGame'_inj
 
+instance : Coe IGame LGame := ⟨toLGame⟩
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/IGame.lean:59]: Thanks for adding this! I'll have to go back and clean up the code a bit after this PR.

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 10]
```diff
@@ -0,0 +1,267 @@
...
+theorem fuzzy_zero_iff_and {x : IGame} : x ‖ 0 ↔ IsLeftWin x ∧ IsRightWin x := by
+  rw [IncompRel, isLeftWin_iff_zero_lf, isRightWin_iff_lf_zero]
+
+theorem equiv_zero_iff_and {x : IGame} : x ≈ 0 ↔ IsLeftLoss x ∧ IsRightLoss x := by
+  rw [AntisymmRel, isLeftLoss_iff_le_zero, isRightLoss_iff_zero_le]
+
+theorem lt_zero_iff_and {x : IGame} : x < 0 ↔ IsLeftLoss x ∧ IsRightWin x := by
+  rw [lt_iff_le_not_ge, isLeftLoss_iff_le_zero, isRightWin_iff_lf_zero]
+
+theorem zero_lt_iff_an {x : IGame} : 0 < x ↔ IsLeftWin x ∧ IsRightLoss x := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Outcome.lean]:
```suggestion
theorem zero_lt_iff_and {x : IGame} : 0 < x ↔ IsLeftWin x ∧ IsRightLoss x := by
```

**Review by vihdzp — APPROVED** [review]
